data/preprocessed/USPTO_ozonolysis.csv
mech_smi,rxn_idx,step_idx_retro,source,source_db,split
"CNC(C(=O)NC(C(=O)N(C)C(C(C)C)[CH:4]=[C:5](C)C(=O)O)C(C)(C)C)C(C)(C)C1=CC=CC=C1.CO.CSC.[O-:1][O+:2]=[O:3]|(1, 5);((5, 4), 3);((3, 2), 2)",22,4,reaction_24,USPTO_ozonolysis,train
"CNC(C(=O)NC(C(=O)N(C)C(C(C)C)[CH:1]1[O:2][O:3][O:4][C:5]1(C)C(=O)O)C(C)(C)C)C(C)(C)C1=CC=CC=C1.CO.CSC|(2, 1);((1, 5), 4);((4, 3), 3)",22,3,reaction_24,USPTO_ozonolysis,train
"CNC(C(=O)NC(C(=O)N(C)C(C(C)C)[CH:3]=[O+:4][O-:5])C(C)(C)C)C(C)(C)C1=CC=CC=C1.CO.CSC.C[C:1](C(=O)O)=[O:2]|(5, 1);((1, 2), 3);((3, 4), 4)",22,2,reaction_24,USPTO_ozonolysis,train
"CNC(C(=O)NC(C(=O)N(C)C(C(C)C)C1OC(C)(C(=O)O)[O:2][O:3]1)C(C)(C)C)C(C)(C)C1=CC=CC=C1.CO.C[S:1]C|(1, 3);((3, 2), 2)",22,1,reaction_24,USPTO_ozonolysis,train
"CNC(C(=O)NC(C(=O)N(C)C(C(C)C)[CH:1]([O:2][S+:3](C)C)[O:4][C:5](C)(C(=O)O)[O-:6])C(C)(C)C)C(C)(C)C1=CC=CC=C1.CO|(6, 5);((5, 4), 1);((1, 2), 3)",22,0,reaction_24,USPTO_ozonolysis,train
"CCOC(=O)C1=CC=CC2=C1N(C[CH:1]=[CH2:2])S(=O)(=O)N(C(C)C)C2.CSC.ClCCl.[O-:3][O+:4]=[O:5]|(3, 1);((1, 2), 5);((5, 4), 4)",18,4,reaction_12,USPTO_ozonolysis,train
"CCOC(=O)C1=CC=CC2=C1N(C[CH:1]1[CH2:2][O:3][O:4][O:5]1)S(=O)(=O)N(C(C)C)C2.CSC.ClCCl|(5, 1);((1, 2), 3);((3, 4), 4)",18,3,reaction_12,USPTO_ozonolysis,train
"CCOC(=O)C1=CC=CC2=C1N(C[CH:3]=[O+:4][O-:5])S(=O)(=O)N(C(C)C)C2.CSC.ClCCl.[CH2:1]=[O:2]|(5, 1);((1, 2), 3);((3, 4), 4)",18,2,reaction_12,USPTO_ozonolysis,train
"CCOC(=O)C1=CC=CC2=C1N(CC1OC[O:1][O:2]1)S(=O)(=O)N(C(C)C)C2.C[S:3]C.ClCCl|(3, 2);((2, 1), 1)",18,1,reaction_12,USPTO_ozonolysis,train
"CCOC(=O)C1=CC=CC2=C1N(C[CH:1]([O:2][CH2:3][O-:4])[O:5][S+:6](C)C)S(=O)(=O)N(C(C)C)C2.ClCCl|(4, 3);((3, 2), 1);((1, 5), 6)",18,0,reaction_12,USPTO_ozonolysis,train
"CO.CSC.ClCCl.FC1=CC(C2OCCCO2)=CC=C1C1=NC2=CC=C([C:3](C3=CC=CC=C3)=[CH2:2])N=C2S1.[O+:1](=[O:4])[O-:5]|(5, 3);((3, 2), 4);((4, 1), 1)",25,4,reaction_36,USPTO_ozonolysis,train
"CO.CSC.ClCCl.FC1=CC(C2OCCCO2)=CC=C1C1=NC2=CC=C([C:5]3(C4=CC=CC=C4)[CH2:1][O:2][O:3][O:4]3)N=C2S1|(4, 5);((5, 1), 2);((2, 3), 3)",25,3,reaction_36,USPTO_ozonolysis,train
"CO.CSC.ClCCl.FC1=CC(C2OCCCO2)=CC=C1C1=NC2=CC=C([C:5](C3=CC=CC=C3)=[O+:4][O-:3])N=C2S1.[CH2:1]=[O:2]|(3, 1);((1, 2), 5);((5, 4), 4)",25,2,reaction_36,USPTO_ozonolysis,train
"CO.C[S:1]C.ClCCl.FC1=CC(C2OCCCO2)=CC=C1C1=NC2=CC=C(C3(C4=CC=CC=C4)OC[O:2][O:3]3)N=C2S1|(1, 3);((3, 2), 2)",25,1,reaction_36,USPTO_ozonolysis,train
"CO.C[S+:1](C)[O:2][C:3](C1=CC=CC=C1)(C1=CC=C2N=C(C3=CC=C(C4OCCCO4)C=C3F)SC2=N1)[O:4][CH2:5][O-:6].ClCCl|(6, 5);((5, 4), 3);((3, 2), 1)",25,0,reaction_36,USPTO_ozonolysis,train
"CCOC(C)=O.CSC.O.O.O=C1N(C2=CC=CC=C2)C[C:2]1=[CH2:1].[O-:3][O+:4]=[O:5]|(3, 2);((2, 1), 5);((5, 4), 4)",9,4,reaction_45,USPTO_ozonolysis,train
"CCOC(C)=O.CSC.O.O.O=C1N(C2=CC=CC=C2)C[C:1]12[CH2:2][O:3][O:4][O:5]2|(5, 1);((1, 2), 3);((3, 4), 4)",9,3,reaction_45,USPTO_ozonolysis,train
"CCOC(C)=O.CSC.O.O.O=C1N(C2=CC=CC=C2)C[C:3]1=[O+:4][O-:5].[CH2:1]=[O:2]|(5, 1);((1, 2), 3);((3, 4), 4)",9,2,reaction_45,USPTO_ozonolysis,train
"CCOC(C)=O.C[S:1]C.O.O.O=C1N(C2=CC=CC=C2)CC12OC[O:2][O:3]2|(1, 2);((2, 3), 3)",9,1,reaction_45,USPTO_ozonolysis,train
"CCOC(C)=O.C[S+:1](C)[O:2][CH2:3][O:4][C:5]1([O-:6])CN(C2=CC=CC=C2)C1=O.O.O|(6, 5);((5, 4), 3);((3, 2), 1)",9,0,reaction_45,USPTO_ozonolysis,train
"CC1(C)C2CC1[C:1](=[CH2:2])CC2=O.CO.CSC.[O-:3][O+:4]=[O:5]|(3, 1);((1, 2), 5);((5, 4), 4)",16,4,reaction_37,USPTO_ozonolysis,train
"CC1(C)C2CC1[C:1]1(CC2=O)[CH2:2][O:3][O:4][O:5]1.CO.CSC|(5, 1);((1, 2), 3);((3, 4), 4)",16,3,reaction_37,USPTO_ozonolysis,train
"CC1(C)C2CC1[C:3](=[O+:4][O-:5])CC2=O.CO.CSC.[CH2:1]=[O:2]|(5, 1);((1, 2), 3);((3, 4), 4)",16,2,reaction_37,USPTO_ozonolysis,train
"CC1(C)C2CC1C1(CC2=O)OC[O:2][O:3]1.CO.C[S:1]C|(1, 2);((2, 3), 3)",16,1,reaction_37,USPTO_ozonolysis,train
"CC1(C)C2CC1[C:5]([O:4][CH2:3][O:2][S+:1](C)C)([O-:6])CC2=O.CO|(6, 5);((5, 4), 3);((3, 2), 1)",16,0,reaction_37,USPTO_ozonolysis,train
"CO.CSC.C[C:1](C(=O)OCC1=CC=CC=C1)=[CH2:2].ClCCl.[O-:3][O+:4]=[O:5]|(3, 2);((2, 1), 5);((5, 4), 4)",35,4,reaction_8,USPTO_ozonolysis,train
"CO.CSC.C[C:1]1(C(=O)OCC2=CC=CC=C2)[CH2:2][O:3][O:4][O:5]1.ClCCl|(5, 1);((1, 2), 3);((3, 4), 4)",35,3,reaction_8,USPTO_ozonolysis,train
"CO.CSC.C[C:3](C(=O)OCC1=CC=CC=C1)=[O+:4][O-:5].ClCCl.[CH2:1]=[O:2]|(5, 1);((1, 2), 3);((3, 4), 4)",35,2,reaction_8,USPTO_ozonolysis,train
"CC1(C(=O)OCC2=CC=CC=C2)OC[O:3][O:1]1.CO.C[S:2]C.ClCCl|(2, 3);((3, 1), 1)",35,1,reaction_8,USPTO_ozonolysis,train
"CO.C[S+:1](C)[O:2][CH2:3][O:4][C:5](C)(C(=O)OCC1=CC=CC=C1)[O-:6].ClCCl|(6, 5);((5, 4), 3);((3, 2), 1)",35,0,reaction_8,USPTO_ozonolysis,train
